US04937246
A mixture of 6,7-methylenedioxy-3,4-dihydro-1(2H)-naphthalenone (3.8 g), diethyl carbonate (36 g) and sodium methylate powder [prepared by subjecting a 28% methanol solution (14 g) of sodium methylate to drying under reduced pressure] is heated under reflux for 3 hours in a nitrogen stream. After cooling, methanol (20 ml) is added to the reaction mixture. The mixture is acidified with concentrated hydrochloric acid, and mixed with water (200 ml) and ethyl acetate (200 ml), followed by extraction. The organic layer is washed with water, dried and concentrated under reduced pressure to leave methyl 6,7-methylenedioxy1-oxo-1,2,3,4-tetrahydro-2-naphthoate as oily product. This product is dissolved in methanol (50 ml). Sodium borohydride (0.5 g) is added to the mixture under ice-cooling, and the mixture is stirred. Thirty minutes later, sodium borohydride (0.5 g) is supplemented, and the mixture is stirred for 30 minutes, followed by subjecting it to extraction with the addition of water and ethyl acetate. The organic layer is washed with water, dried, concentrated to dryness under reduced pressure. To the residue is added ethyl acetate (10 ml), and the mixture is left standing to allow crystals to precipitate. The crystals are collected by filtration to afford methyl 1-hydroxy-6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthoate (1 g) as colorless prisms. The filtrate is concentrated to dryness under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane: ethyl acetate=2:1- 1:1) to thereby obtain the same product (1 g). The overall yield is 2 g. Melting point=120°-130°C.

reactant | 6,7-methylenedioxy-3,4-dihydro-1(2H)-naphthalenone | 3.8 g | C1OC=2C=C3CCCC(C3=CC2O1)=O | C11H10O3
reactant | diethyl carbonate | 36 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 14 g | CO | CH4O
product | methyl 6,7-methylenedioxy1-oxo-1,2,3,4-tetrahydro-2-naphthoate | C1C=2C(=C3CCC(C(C3=C(C21)O)=O)C(=O)OC)O | C13H12O5
